US04943578
(i) (R)-3-(Hydroxymethyl)-2,5-piperazinedione
A mixture of glycyl-D-serine I (4 g) in methanol (12 ml) was treated with thionyl chloride (4 ml) dropwise over a 15 min period maintaining the temperature below 30°. The mixture was heated at 40°-50° for 3 h, and the solvent was evaporated in vacuo. The residue was triturated under diethyl ether and then dissolved in methanol (80 ml). Aqueous ammonia (8 ml) was added and the resulting solid was filtered off, to give the title compound as a solid (1.95 g) m.p. 218°.

reactant | glycyl-D-serine | NCC(=O)N[C@H](CO)C(=O)O | C5H10N2O4
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 12 ml | CO | CH4O
product | (R)-3-(Hydroxymethyl)-2,5-piperazinedione | 1.95 g | OC[C@@H]1C(NCC(N1)=O)=O | C5H8N2O3
